US05629432
Diethyl α-phenyl-α-(2-tetrahydropyranyloxyethyl)malonate
Potassium t.butoxide (112 g, 1M) in DMF (800 ml) was treated with diethyl phenylmalonate (236 g, 1M) in DMF (200 ml) then with 1-bromo-2-tetrahydropyranyloxy-ethane (209 g, 1M) in DMF (200 ml). The reaction was heated to 70° C. After 5 hours the reaction was cooled to room temperature, quenched on to water (2.5 l) and 2N HCl (500 ml), and extracted with IPE (1 l, then 500 ml). The organic extracts were washed with water, dried and evaporated to give the title compound (351 g, 96%). Glc 93%+7% unchanged diethylphenylmalonate.

reactant | Potassium | [K] | K
reactant | butoxide | 1M, 112 g | [O-]CCCC
reactant | diethyl phenylmalonate | 1M, 236 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | 1-bromo-2-tetrahydropyranyloxy-ethane | 1M, 209 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 800 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Diethyl α-phenyl-α-(2-tetrahydropyranyloxyethyl)malonate | 351 g, 96% | C1(=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)CCOC1OCCCC1 | C20H28O6
